*
.SUBCKT BF823 1 2 3 
* housing parasitics
LB 2 22 1.25E-9 
LE 3 333 1.12E-09 
LC 1 11 2.3E-10 
CBCG 22 11 6.2E-14 
CBEG 22 333 4.5E-14 
CCEG 11 333 6.2E-14 
Q1 11 22 333 QBF823 AREA = 1 
*
.MODEL QBF823 PNP 
+ IS = 8.912E-15 
+ NF = 0.9978 
+ ISE = 1.62E-15 
+ NE = 1.45 
+ BF = 130 
+ IKF = 0.015 
+ VAF = 165 
+ NR = 0.9979 
+ ISC = 7.8E-13 
+ NC = 1.21 
+ BR = 2.018 
+ IKR = 0.07 
+ VAR = 86 
+ RB = 200 
+ IRB = 8.362E-06 
+ RBM = 0.001 
+ RE = 0.62 
+ RC = 0.255 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.552E-11 
+ VJE = 0.7704 
+ MJE = 0.3878 
+ TF = 1.2E-09 
+ XTF = 9 
+ VTF = 5 
+ ITF = 0.06 
+ PTF = 0 
+ CJC = 8.382E-12 
+ VJC = 0.9588 
+ MJC = 0.5687 
+ XCJC = 1 
+ TR = 1E-32 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.ENDS
*
